US07816557B2
To a solution of 4-(1-hydroxy-heptyl)-benzoic acid methyl ester (1000 mg, 4.0 mmol) in toluene (40 mL) is added 1,1′-(azodicarbonyl)dipiperidine (ADDP, 1514 mg, 6.0 mmol) at 0° C., followed by the additions of tributylphosphine (1.49 mL, 6.0 mmol) and 4-bromo-3,5-dimethyl-phenol (965 mg, 4.8 mmol). The reaction mixture is warmed up to room temperature and stirred overnight. The mixture is loaded on silica gel, eluted with hexanes with a gradient from 0% of ethyl acetate to 50% of ethyl acetate giving 4-[1-(4-bromo-phenoxyl)-heptyl]-benzoic acid methyl ester. The ester product (1800 mg) is taken into ethanol (5 mL), treated with sodium hydroxide (5N aqueous, 5 mL) for 3 h at room temperature. The mixture is concentrated, diluted with ethyl acetate, acidified with 5 N HCl (5 mL), extract with ethyl acetate. The organic layers are dried and concentrated giving 4-[1-(4-bromo-3,5-dimethyl-phenoxyl)-heptyl]-benzoic acid (1790 mg).

reactant | 4-(1-hydroxy-heptyl)-benzoic acid methyl ester | 4.0 mmol, 1000 mg | COC(C1=CC=C(C=C1)C(CCCCCC)O)=O | C15H22O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 6.0 mmol, 1514 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 6.0 mmol, 1.49 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4-bromo-3,5-dimethyl-phenol | 4.8 mmol, 965 mg | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(4-bromo-phenoxyl)-heptyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CCCCCC)OC1=CC=C(C=C1)Br)=O | C21H25BrO3
